US07868031B2
3,3,3-Trifluoro-2-hydroxy-N-(4-oxazol-2-yl-phenyl)-2-[1-(2-trifluoromethyl-phenyl)-cyclobutylmethyl]-propionamide
63 mg (0.15 mmol) of N-(4-oxazol-2-yl-phenyl)-2-oxo-3-[1-(2-trifluoromethyl-phenyl)-cyclobutyl]-propionamide in 2 ml dimethylformamide is mixed at 0° C. with 48.7 mg (0.15 mmol) of cesium carbonate and 0.14 ml (0.88 mmol) of trimethylsilane-trifluoromethane (CF3.TMS). The reaction mixture was stirred overnight at room temperature. 0.1 ml of 1M tetrabutylammonium fluoride in tetrahydrofuran was added and stirred over the weekend at room temperature. The reaction was quenched with water and extracted with ethyl acetate. The combined ethyl acetate extracts were washed twice with water, dried and concentrated by evaporation. The residue was purified by preparative TLC (EtOAc-hexane 30%) to yield 3.3 mg of product.

reactant | N-(4-oxazol-2-yl-phenyl)-2-oxo-3-[1-(2-trifluoromethyl-phenyl)-cyclobutyl]-propionamide | 0.15 mmol, 63 mg | O1C(=NC=C1)C1=CC=C(C=C1)NC(C(CC1(CCC1)C1=C(C=CC=C1)C(F)(F)F)=O)=O | C23H19F3N2O3
reactant | cesium carbonate | 0.15 mmol, 48.7 mg | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | trimethylsilane trifluoromethane | 0.88 mmol, 0.14 ml | C[SiH](C)C.FC(F)F
reactant | tetrabutylammonium fluoride | 1M, 0.1 ml | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | dimethylformamide | 2 ml | CN(C=O)C | C3H7NO
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 3,3,3-Trifluoro-2-hydroxy-N-(4-oxazol-2-yl-phenyl)-2-[1-(2-trifluoromethyl-phenyl)-cyclobutylmethyl]-propionamide | 3.3 mg | FC(C(C(=O)NC1=CC=C(C=C1)C=1OC=CN1)(CC1(CCC1)C1=C(C=CC=C1)C(F)(F)F)O)(F)F | C24H20F6N2O3
